US07361763B2
To (2-amino-5-bromo-pyridin-3-yl)-[6-(2-methoxy-ethylamino)-pyridin-3-yl]-methanone, 3,4-dimethoxyphenylboronic acid (1.3 equiv.) and dichlorobis (triphenylphosphino)palladium (ii) (6 mol %) in a Smith process vial was added a 3:2:1 mixture of acetonitrile, water, and a 2 m solution of sodium carbonate in water to achieve an overall concentration of the starting material of 0.10 m. The reaction was run in a Personal Chemistry® microwave reactor at 165° C. for 1200 s. Water was added and the mixture extracted three times with ethyl acetate. Purification on silica gel with a gradient of MeOH/CH2Cl2 afforded [2-amino-5-(3,4-dimethoxy-phenyl)-pyridin-3-yl]-[6-(2-methoxy-ethylamino)-pyridin-3-yl]-methanone as a yellow solid (74% yield). 1H NMR (DMSO-d6): δ 8.49 (d, J=2.0 Hz, 1H), 8.33 (d, J=2.5 Hz, 1H), 7.85 (d, J=2.0 Hz, 1H), 7.73 (d, J=8.5 Hz, 1H), 7.58 (broad s, 1H), 7.14 (s, 1H), 7.05 (m, 3H), 6.98 (d, J=8.5 Hz, 1H), 6.59 (d, J=9.0 Hz, 1H), 3.79 (s, 3H), 3.75 (s, 3H), 3.50 (broad t, J=5.0 Hz, 2H), 3.46 (t, J=5.0 Hz, 2H), 3.26 (s, 3H); HPLC/MS m/z: 409.2 [MH]+.

reactant | (2-amino-5-bromo-pyridin-3-yl)-[6-(2-methoxy-ethylamino)-pyridin-3-yl]-methanone | NC1=NC=C(C=C1C(=O)C=1C=NC(=CC1)NCCOC)Br | C14H15BrN4O2
reactant | 3,4-dimethoxyphenylboronic acid | 1.3 equiv. | COC=1C=C(C=CC1OC)B(O)O | C8H11BO4
reactant | acetonitrile | C(C)#N | C2H3N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
catalyst | dichlorobis (triphenylphosphino)palladium (ii) | Cl[Pd-2](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)Cl
product | [2-amino-5-(3,4-dimethoxy-phenyl)-pyridin-3-yl]-[6-(2-methoxy-ethylamino)-pyridin-3-yl]-methanone | 74% yield | NC1=NC=C(C=C1C(=O)C=1C=NC(=CC1)NCCOC)C1=CC(=C(C=C1)OC)OC | C22H24N4O4
